US06660742B2
Di-t-butyl dicarbonate (3.18 g, 14.57 mmol) was added to a solution of 2-[4-amino-2-nitronaphthalen-1-yl]ethyl acetate (1.0 g, 3.65 mmol) in dry pyridine (10 mL) at room temperature and stirred overnight. The mixture was concentrated and diluted with AcOEt (100 mL). The organic layer was washed with H2O (30 mL) and saturated aqueous NaCl (30 mL), and then the organic layer was dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography (25% AcOEt-Petroleum ether) afforded 2-[4-(N-t-butoxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl acetate (1.0 g, 73%) as a yellow solid.; mp 122-124° C.; 1H NMR (CDCl3, 500 MHz) δ 8.40 (d, 8.0, 2H), 7.94 (d, 8.0, 1H), 7.73 (t, 7.0, 1H), 7.70 (t, 7.5, 1H), 7.00 (brs, 1H), 4.45 (t, 7.5, 2H), 3.55 (t, 7.5, 2H), 2.05 (s, 3H), 1.58 (s, 9H); FABMS (NBA) m/z 374 (M+), FABHR (NBA) m/z 374.1487 (M+, C19H22N2O6 requires 374.1478) IR (neat) 1735, 1598, 1527, 1367, 1342, 1234, 1156, 1040, 893, 760 cm−1.

reactant | Di-t-butyl dicarbonate | 14.57 mmol, 3.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[4-amino-2-nitronaphthalen-1-yl]ethyl acetate | 3.65 mmol, 1.0 g | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)N)[N+](=O)[O-] | C14H14N2O4
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-[4-(N-t-butoxycarbonylamino)-2-nitronaphthalen-1-yl]ethyl acetate | 1.0 g, 73% | C(C)(=O)OCCC1=C(C=C(C2=CC=CC=C12)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C19H22N2O6
